US04885283
2.5 g of [(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]-4-methylpentyl](phthalimidomethyl)phosphinic acid methyl ester, prepared as described in Example 1(A)(v), were dissolved in 30 ml of a 0.33M solution of hydrazine hydrate in methanol. The mixture was stirred at room temperature for 18 hours and was then evaporated. The residue was suspended in 50 ml of dichloromethane and 0.7 g of glacial acetic acid was added. After standing at room temperature for 1 hour the precipitated phthalhydrazide was removed by filtration and the filtrate was evaporated to give a colorless gum which was purified by chromatography on silica gel using chloroform/methanol/acetic acid/water (60:18:2:3) for the elution. There were obtained 1.84 g of (aminomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid methyl ester acetate in the form of a colorless gum.

reactant | [(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]-4-methylpentyl](phthalimidomethyl)phosphinic acid methyl ester | 2.5 g | COP(=O)(CN1C(C=2C(C1=O)=CC=CC2)=O)CC(CC(C)(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O | C25H38N3O6P
reactant | hydrazine hydrate | O.NN
solvent | methanol | CO | CH4O
product | (aminomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid methyl ester acetate | 1.84 g | C(C)(=O)O.COP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CN | InChI=1S/C16H34N3O4P.C2H4O2/c1-11(2)7-13(9-24(22,10-17)23-6)15(20)19-14(8-12(3)4)16(21)18-5;1-2(3)4/h11-14H,7-10,17H2,1-6H3,(H,18,21)(H,19,20);1H3,(H,3,4)/t13?,14-,24?;/m0./s1
